US07423159B2
To a mixture of 5-(4-nitrobenzyl)-1H-tetrazole (5.0 g) and N,N-dimethylformamide (200 mL) was added sodium hydride (60% in oil, 1.17 g) at 0° C. The reaction mixture was stirred at 0° C. for 1 hr. and iodoethane (5.69 g) was added at 0° C. The reaction mixture was stirred at 0° C. for 2 hrs. and water was poured into the reaction mixture. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-ethyl-5-(4-nitrobenzyl)-2H-tetrazole as a brown oil (2.70 g, yield 48%) from a fraction eluted with hexane-ethyl acetate (2:1-1:2, v/v).

reactant | 5-(4-nitrobenzyl)-1H-tetrazole | 5.0 g | [N+](=O)([O-])C1=CC=C(CC2=NN=NN2)C=C1 | C8H7N5O2
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.17 g | [H-].[Na+]
reactant | iodoethane | 5.69 g | ICC | C2H5I
solvent | water | O | H2O
product | 2-ethyl-5-(4-nitrobenzyl)-2H-tetrazole | 2.70 g, yield 48% | C(C)N1N=C(N=N1)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H11N5O2
